Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived / Optiray 350
 
Attending: ___.
 
Chief Complaint:
elevated transaminases
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w/ PMH of Hepatitis B c/b slowly progressive HCC who 
presents from OSH with elevated transaminases, elevated 
creatinine, and lactic acidosis. Patient had originally 
presented yesterday at 4pm to ___ ED with RUQ 
pain, nausea, and vomiting x 1 (nonbloody, nonbilious). The 
patient also states that he was feeling lightheaded/dizzy 
throughout the afternoon yesterday. In fact, he went to take a 
shower at 4pm and fell lightheaded, then while walking back to 
the living room states that he fell and hit his left temple. He 
states that the fall was unwitnessed and he is unsure if he lost 
consciousness. Additionally, he had no tongue biting, no 
convulsions, no loss of continence, no history of seizures. 
.  
At OSH, on presentation (___) at 16:30, VS: 103/60, 67, 16, 
97.6, 99%RA. Labs showed Cr=2.62, Tbili=2.8, ALT=2409, AST=6134, 
LDH=5512, glucose=47, lactate=15. At OSH, received 2L NS, D5W 
25g IV. CT was done, which reportedly showed ascites, 
calcifications, multiple lesions. Patient was transferred here 
b/c well known to our oncology and oncology services. 
.
In the ED, initial vs were 97.6 66 122/83 16 99%. Patient was 
given another 1 L NS, as well as ceftriaxone 1gram and flagyl 
500mg IV supposedly to treat for SBP. No paracentesis was done. 
Ultrasound was done to assess for portal vein thrombosis, which 
showed patent portal vein but suggestion of IVC infiltration by 
malignancy/?thrombus. Repeat lactate trended down to 8, 
Creatinine now 2. Liver and heme-onc were both contacted in the 
ED to alert the services that patient is here. Patient reported 
to be AAOx3. No head CT done. On transfer to MICU, VS were: 
afebrile, 114/89, 69, 12, 100RA. Patient expressed he wanted 
aggressive treatment.
.
In the MICU, patient has no complaints. On ROS he also mentions 
that earlier in the day he was having chest discomfort, ___, 
nonradiating, assoc w/ mild SOB/no diaphoresis. It resolved on 
its own. Also c/o subjective fevers/chills. Denied dysuria, 
diarrhea, current nausea, cough.

 
Past Medical History:
1.  Hypertension.
2.  Hepatitis B cirrhosis c/b HCC.
Diagnosed with hepatocellular carcinoma in ___.  He 
underwent right hepatic lobectomy with cholecystectomy in 
___.  Pathology revealed a 11 cm tumor with numerous 
satellite nodules.  Postoperative imaging demonstrated small 
left-sided lesions, and he underwent left liver TACE in ___. 
Surveillance imaging in ___ identified an 11 mm lesion in 
segment II, and he was referred for radiofrequency ablation. 
However, during the procedure in ___, the lesion was not 
identified. In ___, segment II lesion noted to be larger, 
demonstrating mass effect on adjacent IVC and abutting 
pericardial surface.
3.  COPD.

 
Social History:
___
Family History:
The patient's father died at ___ years.  His mother died in her 
___ with HBV.  A sister died at ___ years of cancer, unknown.  A 
younger brother has hepatitis.
 
Physical Exam:
On Admission:
General: Alert, oriented, no acute distress, mild jaundice  
HEENT: head lac on left temple, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

At Discharge:
VS: T 98.3 BP 120/82 HR 62 RR 18 O2 sat 96% on RA
General: in no acute distress
HEENT: spider angiomata on nose, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: bibasilar dullness, no wheezes, rales, ronchi
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
Abdomen: distended, firm, non-tender to palpation, bowel sounds 
present, no rebound tenderness or guarding
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 1+ 
b/l lower extremity edema 
 
Pertinent Results:
ADMISSION LABS

___ 08:20PM BLOOD WBC-8.9# RBC-3.26* Hgb-9.3* Hct-28.5* 
MCV-87# MCH-28.7# MCHC-32.8 RDW-16.7* Plt Ct-58*#
___ 08:20PM BLOOD Neuts-76.9* ___ Monos-2.6 Eos-0.3 
Baso-0.2
___ 08:20PM BLOOD ___ PTT-62.4* ___
___ 08:20PM BLOOD Glucose-156* UreaN-29* Creat-2.0*# Na-134 
K-4.8 Cl-100 HCO3-16* AnGap-23*
___ 08:20PM BLOOD ALT-2838* AST-8209* AlkPhos-79 
TotBili-2.0*
___ 08:20PM BLOOD Lipase-41
___ 08:20PM BLOOD Calcium-8.5 Phos-6.1*# Mg-2.3
___ 08:42PM BLOOD Lactate-8.7*

PERTINENT LABS
___ 01:55AM BLOOD Fibrino-70*
___ 10:37AM BLOOD ___
___ 03:00PM BLOOD ___
___ 05:30AM BLOOD Fibrino-88*
___ 08:20PM BLOOD ALT-2838* AST-8209* AlkPhos-79 
TotBili-2.0*
___ 01:55AM BLOOD ALT-3048* AST-9420* LD(___)-5940* 
CK(CPK)-515* AlkPhos-77 TotBili-1.9* DirBili-1.0* IndBili-0.9
___ 10:37AM BLOOD ALT-2720* AST-7417* LD(___)-3865* 
CK(CPK)-524* AlkPhos-79 TotBili-1.8*
___ 05:30AM BLOOD ALT-2260* AST-3841* LD(___)-1588* 
AlkPhos-92 TotBili-1.3
___ 01:55AM BLOOD CK-MB-12* MB Indx-2.3 cTropnT-0.46*
___ 10:37AM BLOOD CK-MB-10 MB Indx-1.9 cTropnT-0.28*
___ 08:20PM BLOOD Calcium-8.5 Phos-6.1*# Mg-2.3
___ 01:55AM BLOOD Albumin-3.4* Calcium-7.8* Phos-4.7* 
Mg-2.2
___ 10:37AM BLOOD Albumin-3.4* Calcium-7.3* Phos-3.2 Mg-2.4
___ 03:00PM BLOOD Calcium-7.5* Phos-2.7 Mg-2.3
___ 05:30AM BLOOD Albumin-3.2* Calcium-7.5* Phos-1.8* 
Mg-2.3
___ 08:42PM BLOOD Lactate-8.7*
___ 02:03AM BLOOD Lactate-4.4*
___ 09:27AM BLOOD Lactate-2.6*

ABDOMINAL ULTRASOUND ___
IMPRESSION: 
1. Patent portal vein with hepatopetal flow. 
2. Multiple hepatic lesions, unchanged from those described on 
recent CT, as best can be compared across modalities. 
3. Isoechoic material within the IVC is noted. This raises the 
possibility 
of partial IVC thrombus and this possibility could be further 
evaluated via
CT/MRI as clinically appropriate. 

CT HEAD ___
IMPRESSION: No acute intracranial abnormality.

MRI Abdomen ___
 
FINDINGS:
There is interval increase in size of the hepatocellular 
carcinoma in segment II. The lesion measures 5 cm x 3.7 cm in 
largest orthogonal diameters (113:38). The lesion now has a 
clear component inside the right atrium and above the diaphragm 
measuring approximately 2.4 x 3 cm in diameter. The lesion also 
invades the superior infradiaphragmatic portion of the IVC for a 
short segment. More caudally, there is a partially obstructive 
bland thrombus involving the entire length of IVC down to the 
iliac vein confluence. There is no sign of esophageal invasion 
as a fat plane is seen between the esophagus and the tumor. 
Multiple nonenhancing masses in segment II are again seen, 
post-TACE and RFA. There is heterogenous appearance of the 
parenchyma of the segment IIA with faint arterial flow to this 
segment consistent with post-TACE changes. There is no portal 
vein thrombosis. The left hepatic vein is patent. There are 
multiple enlarged lymph nodes in the celiac region, the largest 
measuring 3 cm in diameter with central necrosis.
No renal vein thrombosis or collateral formation.
Again seen is a horseshoe kidney with multiple simple bilateral 
cysts,
unchanged. Adrenals, spleen and pancreas are unremarkable.
There is moderate amount of perihepatic ascites and a small 
amount of
perisplenic free fluid. The right hemidiaphragm is slightly 
thickened
anteriorly. No nodularity to suggest neoplastic involvement of 
the diaphragm. There are bilateral nonhemorrhagic pleural 
effusions, larger on the right. Multiplanar 2D and 3D 
reformations and subtraction images provided multiple 
perspectives for the dynamic series (112 and 113).
IMPRESSION:
Interval enlargement of segment II hepatocellular carcinoma with 
clear
invasion of the subdiaphragmatic IVC for a short segment and 
right atrial
component. Partial occlusive bland thrombus below the tumor 
involving the
entire length of IVC without extension to the renal veins. 
Interval increase in size of metastatic upper abdominal 
adenopathy. 
Bilateral pleural effusions and perisplenic and perihepatic 
ascites.

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with history of Hepatitis B 
complicated by slowly progressive ___ s/p 
lobectomy/TACE/radiofreqency ablation who presents from OSH with 
elevated transaminases, elevated creatinine, and lactic 
acidosis. Patient was initially admitted to the medical ICU and 
transferred to the OMED service in stable condition.

1. Elevated Transaminases/bilirubin - Transaminases peaked at 
3048/9420 on ___ and continued to trend down throughout the 
hospitalization. Also with elevation in coags, bili c/w acute 
liver insult. Differential diagnosis included shock liver in 
setting of hypotension, Budd-Chiari syndrome from IVC thrombus 
vs. HCC invasion (lesion in segment II previously noted next to 
IVC), toxin exposure, ingestion of herbal supplements. No 
evidence of portal v thrombosis on imaging. Acetominophen level 
negative. Pt was given a ceftriaxone 1 g and flagyl 500mg in ED 
for possible SBP, but this was discontinued as he had no 
evidence of SBP on exam. Preliminary read of abdominal MRI 
w/partially occlusive IVC thrombus. The patient was started on 
heparin, but this was stopped due to thrombocytopenia/elevated 
INR.  LFTs, lactate, coags all trended down with IV hydration. 

Given the presentation of elevated transaminases with acute 
renal failure that improved with volume resuscitation, it is 
likely the patient had hemodynamic compromise (possibly from IVC 
thrombus and/or tumor invasion into IVC) that led to shock liver 
and pre-renal azotemia.  His transaminases trended down daily 
until the patient was discharged.  At the time of discharge the 
patient denied pain.  

2. Acute renal failure: The patient's baseline is creatinine 1, 
At discharge the patient's creatinine was back to baseline. 
Possibly due to poor forward flow if episode of hypotension as 
hypothesized above. FeNa consistent w/ pre-renal picture; 
medications were renally dosed on admission. 
  
3. Acute Anemia/Thrombocytopenia: Stable since admission, in 
setting of thrombocytopenia. ___ be secondary to underlying 
liver disease, would be exacerbated by acute insult to liver. No 
evidence of active bleeding. Patient was given cryo prior to 
transfer from ICU. Fibrinogen continued to trend down, likely 
due to poor liver function. Patient was given cryo on ___ with 
improvement in fibrinogen.  His fibrinogen and thrombocytopenia 
stabilized as his liver function improved.

4. ? Syncope: Unclear trigger, sounds as though initially 
presyncopal and wonder if this was related to hypotension/poor 
perfusion state leading to lactic acidosis and end organ 
ischemia. No history of seizures. Now with elevated cardiac 
enzymes, but unlikely that this was inciting event as no ST/T 
wave changes on EKG and fits demand ischemia picture.  Head CT 
was negative in setting of trauma and supratherapeutic INR. BP 
was stable in 100s, dipped to ___ prior to transfer from ICU, 
resolved w/500cc fluid bolus.
  
5. Lactic acidosis: Unclear trigger- possible hypotensive 
episode leading to syncope) causing shock liver and poor tissue 
perfusion/lactic acidosis. Lactate levels trended down with IV 
hydration. Blood and urine cultures revealed no evidence of 
infection.  
  
6. Elevated cardiac enzymes: Likely secondary to demand 
ischemia, CKs elevated by MBs flat. Could also be secondary to 
ischemic/necrotic liver. ___ have had an MI due to 
hypoperfusion, but less likely. Patient denying current or 
history of CP/SOB.
  
7. HCC: Treatment per pt's primary outpatient oncologist. MRI 
showed enlargement of tumor and extension into IVC.  Had family 
meeting with patient and his son ___ regarding advancing 
disease.  Mr. ___ follow-up with his primary oncologist and 
hepatologist regarding future treatment. 
  
8. Hepatitis B: Continued tenofovir.  

 
Medications on Admission:
TENOFOVIR DISOPROXIL FUMARATE [VIREAD] - 300 mg daily

 
Discharge Medications:
1. tenofovir disoproxil fumarate 300 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Hospice
Please screen and admit to hospice
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
5. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Acute liver failure, Hepatitis B cirrhosis, hepatocellular 
carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your admission. You 
were admitted for abdominal pain and very high liver enzymes. 
You were found to have a blood clot near your liver. You were 
given a drug to thin your blood and your liver enzymes started 
to come down. We stopped the blood thinning medication, because 
we were concerned that you are at risk for bleeding because your 
body's clotting factors are not functioning properly because you 
have liver disease.  Your liver enzymes improved.  You had an 
MRI that showed your tumor has spread - this may have caused the 
liver failue that brought you into the hospital. You will 
follow-up with your outpatient oncologist and hepatologist.  
.
Please make the following changes to your medications:
-Added colace 100 mg daily for constipation
-Added Bisacodyl 10 mg daily as needed for constipation
-Added Senna 1 tab, twice a day as needed for constipation
.
Please continue all other medications as prescribed.
 
Followup Instructions:
___